### PR TITLE
Feat: Change Tactic Auto

### LINKED ISSUE #445: AliveStatements:  b - (a ^^^ allOnes w) = b + a + 1#w
bitvec_AddSub_1564 should be a simple extension of what we already have. This might be worth looking into.

### PR DESCRIPTION
**Pull request by AtticusKuhn**
Pair programming with @bollu. Made several changes.

1. Added formatting and indentation to `TacticAuto.lean`.
2. Changed the ordering of the `bool -> arithmetic` tactic, so that we solve 1 more statement (went from 35 to 34).

### CODE REVIEW

File: SSA/Projects/InstCombine/AliveStatements.lean [hunk 1]
```diff
@@ -298,6 +298,13 @@ theorem bitvec_AndOrXor_1294_A__B__A__B___A__B :
   try alive_auto
   all_goals sorry
 
+theorem aaa : ((a >ᵤ b) || a == b) = (a ≥ᵤ b) := by
+  simp only [BitVec.ult, BitVec.ule, BEq.beq]
+  simp only [←Bool.decide_or]
+  simp only [BitVec.toNat_eq]
+  rw [decide_eq_decide]
+  omega
+
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/AliveStatements.lean:307]: This should be dropped from this PR.

File: SSA/Projects/InstCombine/AliveStatements.lean [hunk 2]
```diff
@@ -298,6 +298,13 @@ theorem bitvec_AndOrXor_1294_A__B__A__B___A__B :
...
 theorem bitvec_AndOrXor_1683_1 :
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/AliveStatements.lean]:
```suggestion

theorem bitvec_AndOrXor_1683_1 :
```

File: SSA/Projects/InstCombine/AliveStatements.lean [hunk 3]
```diff
@@ -306,6 +313,8 @@ theorem bitvec_AndOrXor_1683_1 :
   simp_alive_ops
   simp_alive_case_bash
   try alive_auto
+  simp only [ofBool_or, ofBool_eq']
+  simp [aaa]
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/AliveStatements.lean]:
```suggestion
```

**Review by tobiasgrosser — APPROVED** [review]
With the comments addressed, this looks good.
